* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT5400-1 1 2 3 4 5 6 7 8
R1 8 1 10K
R2 7 2 10K
R3 6 3 10K
R4 5 4 10K
.ends LT5400-1
*
.subckt LT5400-2 1 2 3 4 5 6 7 8
R1 8 1 100K
R2 7 2 100K
R3 6 3 100K
R4 5 4 100K
.ends LT5400-2
*
.subckt LT5400-3 1 2 3 4 5 6 7 8
R1 8 1 100K
R2 7 2 10K
R3 6 3 10K
R4 5 4 100K
.ends LT5400-3
*
.subckt LT5400-4 1 2 3 4 5 6 7 8
R1 8 1 1K
R2 7 2 1K
R3 6 3 1K
R4 5 4 1K
.ends LT5400-4
*
.subckt LT5400-5 1 2 3 4 5 6 7 8
R1 8 1 1Meg
R2 7 2 1Meg
R3 6 3 1Meg
R4 5 4 1Meg
.ends LT5400-5
*
.subckt LT5400-6 1 2 3 4 5 6 7 8
R1 8 1 5K
R2 7 2 1K
R3 6 3 1K
R4 5 4 5K
.ends LT5400-6
